### PR TITLE
Cleanup and golf FG.lean + update blueprint

### PR DESCRIPTION
**Pull request by seewoo5**
~Will continue when #439 is merged.~

Golf `FG.lean`. Also added missing `\leanok` for relevant theorems.

### CODE REVIEW

File: SpherePacking/ModularForms/FG.lean [hunk 1]
```diff
@@ -34,23 +34,16 @@ noncomputable def Δ_fun := 1728⁻¹ * (E₄.toFun ^ 3 - E₆.toFun ^ 2)
...
+    ext w; rw [pow_three, @DirectSum.of_mul_of, DirectSum.of_mul_of]; rfl
   have hd6 : (((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12) = E₆.mul E₆ := by
-    ext w
-    rw [pow_two, @DirectSum.of_mul_of]
-    rfl
+    ext w; rw [pow_two, @DirectSum.of_mul_of]; rfl
   have h := congr_fun (congr_arg (fun f => f.toFun) Delta_E4_E6_eq) z
   have hE4E6 : Delta_E4_E6_aux z = 1728⁻¹ * (E₄ z ^ 3 - E₆ z ^ 2) := by
     simp only [ModForm_mk, ModularForm.toFun_eq_coe, one_div, DirectSum.sub_apply] at h
     simp only [hds, hd6] at h
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: Can this not be combined with the previous line?

File: SpherePacking/ModularForms/FG.lean [hunk 2]
```diff
@@ -68,23 +61,14 @@ theorem F_eq_FReal {t : ℝ} : F.resToImagAxis t = FReal t := by sorry
...
--/
+/-- `F = 9 * (D E₄)²` by Ramanujan's formula `D E₄ = (1/3)(E₂ E₄ - E₆)`. -/
 theorem F_eq_nine_DE₄_sq : F = (9 : ℂ) • (D E₄.toFun) ^ 2 := by
-  have h : E₂ * E₄.toFun - E₆.toFun = 3 • D E₄.toFun := by
-    rw [ramanujan_E₄]; ext z; simp
-  ext z
-  simp only [F, h, Pi.smul_apply, smul_eq_mul, Pi.pow_apply]
-  ring
+  have h : E₂ * E₄.toFun - E₆.toFun = 3 • D E₄.toFun := by rw [ramanujan_E₄]; ext z; simp
+  ext z; simp only [F, h, Pi.smul_apply, smul_eq_mul, Pi.pow_apply]; ring
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean]: I'm not convinced that these triple inlined statements are better than having them on 3 separate lines...

**Comment by seewoo5** [comment]
There are some results on q-expansion of (derivatives of) Eisenstein series, and I think it would be better to move these to e.g. `Eisensteinqexpansion.lean`. But that file might be golfed in #439, so I'd update this PR when it is done first.

File: SpherePacking/ModularForms/FG.lean [hunk 3]
```diff
@@ -29,984 +42,462 @@ open UpperHalfPlane hiding I
...
-    2 * ↑Real.pi * Complex.I * ↑n * ↑(⟨Complex.I * t, by simp [ht]⟩ : UpperHalfPlane) =
-    (-(2 * Real.pi * (n : ℝ) * t) : ℝ) := by
-  have h := exp_imag_axis_arg t ht n
-  simp only [mul_assoc, mul_left_comm, mul_comm] at h ⊢
-  convert h using 2
-
-/-- Generic summability for n^a * σ_b(n) * exp(2πinz) series.
-Uses σ_b(n) ≤ n^(b+1) (sigma_bound) and a33 (a+b+1) for exponential summability. -/
+/-- The `q`-series `∑' n : ℕ+, n ^ a * σ b n * exp (2 π i n z)` is summable for `z : ℍ`. -/
 lemma sigma_qexp_summable_generic (a b : ℕ) (z : UpperHalfPlane) :
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: 🤖 Fable, posting at Cameron's request

As the PR description already notes, this and `sigma_qexp_deriv_bound_generic`, `E₂_sigma_qexp`, `E₄_sigma_qexp`, `DE₄_qexp`, `negDE₂_qexp` are Eisenstein q-expansion facts rather than `F`/`G` facts; `Eisenstein.lean` or `QExpansion.lean` would be their natural home now that #439 is in. Fine as a follow-up.

Also worth a line in the docstring: the `a = 0` case is mathlib's `EisensteinSeries.summable_sigma_mul_cexp_pow` up to `𝕢 z ^ n` vs `cexp (2πinz)` and ℕ vs ℕ+ indexing; the `a ≥ 1` cases (needed for the differentiated series) are what is genuinely new here.

File: SpherePacking/ModularForms/FG.lean [hunk 4]
```diff
@@ -29,984 +42,462 @@ open UpperHalfPlane hiding I
...
-  rw [tsum_congr hterm, tsum_mul_left]
-
-/-- D E₄ q-expansion via termwise differentiation.
-D E₄ = 240 * ∑ n * σ₃(n) * qⁿ from differentiating E₄ = 1 + 240 * ∑ σ₃(n) * qⁿ. -/
+  refine (EisensteinSeries.q_expansion_bernoulli (by norm_num : 3 ≤ 4) (by decide) z).trans ?_
+  norm_num [bernoulli, bernoulli'_four, ← Complex.exp_nat_mul, mul_comm, mul_assoc, mul_left_comm]
+
+/-- Termwise differentiation of a `c₀ + c • ∑' n : ℕ+, a n * qⁿ` expansion: if a holomorphic `g`
+agrees pointwise with such a series (`c ≠ 0`), then `D g z = c * ∑' n, n * a n * qⁿ`. -/
+private lemma D_qexp_const_add_smul {g : ℍ → ℂ} {c₀ c : ℂ} {a : ℕ+ → ℂ} (hc : c ≠ 0)
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: 🤖 Fable, posting at Cameron's request

Nice general lemma. It is fully generic (termwise differentiation of any `c₀ + c • ∑' aₙ qⁿ` expansion), so it could be un-`private`d and live next to `D_qexp_tsum_pnat` in `tsumderivWithin.lean` / `QExpansion.lean`; other q-expansions (e.g. the ones in the MagicFunction PRs) would use it too.

File: SpherePacking/ModularForms/FG.lean [hunk 5]
```diff
@@ -29,984 +42,462 @@ open UpperHalfPlane hiding I
...
-`a/(2πi)` and the bounded limit factor's log-derivative vanishes. Public so downstream files
-(e.g. #331's Θ₂ analysis) can reuse it. -/
+  have h : deriv ((fun w : ℍ ↦ cexp (c * w)) ∘ ⇑ofComplex) (z : ℂ) = cexp (c * z) * (c * 1) :=
+    ((eventuallyEq_coe_comp_ofComplex z.2).fun_comp fun w ↦ cexp (c * w)).deriv_eq.trans
+      (((hasDerivAt_id (z : ℂ)).const_mul c).cexp).deriv
+  simp only [D, h]
+  field_simp
+
+/-- If `F z / exp (a * z) → C ≠ 0` at `i∞`, then `D F / F → a / (2πi)`. -/
 lemma logderiv_tendsto_of_div_exp_tendsto {F : ℍ → ℂ} (hF : MDiff F) {a C : ℂ} (hC : C ≠ 0)
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean]: 🤖 Fable, posting at Cameron's request

This (with `D_cexp_div` above and `I_mul_npow` below) is generic too: nothing about `F`/`G`. `ResToImagAxis.lean` or `Derivative.lean` would make it discoverable. Same remark as above: non-blocking.

File: SpherePacking/ModularForms/FG.lean [hunk 6]
```diff
@@ -29,984 +42,462 @@ open UpperHalfPlane hiding I
...
-  tendsto_cont [Θ₂_div_exp_tendsto]
-
-/-- D(exp(c*z))/exp(c*z) = c/(2πi) for any coefficient c. -/
+    Tendsto (fun z : ℍ ↦ (E₂ z * E₄ z - E₆ z) / cexp (2 * π * I * z)) atImInfty (nhds 720) := by
+  have h_eq : ∀ z : ℍ, (E₂ z * E₄ z - E₆ z) / cexp (2 * π * I * z) =
+      720 * ∑' m : ℕ, (↑(m + 1) * ↑(σ 3 (m + 1)) : ℂ) * cexp (2 * π * I * z * m) := fun z ↦ by
+    rw [E₂_mul_E₄_sub_E₆ z, tsum_pnat_eq_tsum_succ (f := fun n : ℕ ↦ (n * σ 3 n *
+      cexp (2 * π * I * n * z) : ℂ)), mul_div_assoc, ← tsum_div_const]
+    exact congrArg _ (tsum_congr fun m ↦ by push_cast [mul_div_assoc, ← Complex.exp_sub]; ring_nf)
+  have hbound : ∀ m : ℕ, ‖(↑(m + 1) * ↑(σ 3 (m + 1)) : ℂ)‖ ≤ ((m + 1 : ℕ) : ℝ) ^ 5 := fun m ↦ by
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:297]: 🤖 Fable, posting at Cameron's request

FYI for later dedup rather than for this PR: this bound `‖(m+1) σ₃(m+1)‖ ≤ (m+1)^5` is the same estimate as `bg_poly` in #472 (`bg m = 720 m σ₃ m = O(m^5)`), so once both are in one of them can call the other.

File: blueprint/src/subsections/modform-ineq.tex [hunk 7]
```diff
@@ -127,10 +127,10 @@ \section{Proof of Theorem \ref{thm:g}}\label{sec: g}
 Similarly, \eqref{eqn:ddg} can be proved using Proposition \ref{prop:theta-der} and Lemma \ref{lemma:lv1-lv2-identities}.
 \end{proof}
 
-\begin{corollary}\label{cor:MLDE-pos}\uses{lemma:FG-de, cor:disc-pos, cor:theta-pos, def:E2}\leanok
+\begin{corollary}\label{cor:MLDE-pos}\uses{lemma:FG-de, cor:disc-pos, cor:theta-pos, def:E2}\lean{negDE₂_imag_axis_pos}\leanok
```
Comment (cameronfreer) [inline blueprint/src/subsections/modform-ineq.tex]: 🤖 Fable, posting at Cameron's request

`cor:MLDE-pos` is about the sign of the two differential equations on the imaginary axis, which in the file is `serre_D_L₁₀_pos_imag_axis` (via `MLDE_F`/`MLDE_G`), not `negDE₂_imag_axis_pos` (which is one of its inputs). That lemma is `private`, so it cannot be tagged as is; either un-private it and tag it, or leave the tag as a slightly loose pointer.

**Review by cameronfreer — COMMENTED** [review]
🤖 Fable, posting at Cameron's request

Overall: this looks good and I'd merge it. `FG.lean` goes from 1244 to 663 lines, the file's last two `sorry`s (`FReal_Differentiable`, `GReal_Differentiable`) are gone via `hasDerivAt_resToImagAxis_re`, and `E₄_sigma_qexp` now comes straight from mathlib's `EisensteinSeries.q_expansion_bernoulli`. The six copied σ₁/σ₃ lemmas collapse into `sigma_qexp_summable_generic` / `sigma_qexp_deriv_bound_generic` / `D_qexp_const_add_smul`, and the asymptotics section is much cleaner with `logderiv_tendsto_of_div_exp_tendsto`.

Verification: I merged this branch onto today's `main` (it is 3 commits behind, merge is conflict-free) and ran a full `lake build`; it passes with only the pre-existing warnings. All seven `\lean{…}` names added to the blueprint exist in the branch. Nothing outside `FG.lean` on `main` references any of the 20-odd deleted declarations.

The two earlier inline comments from @thefundamentaltheor3m are both outdated: the `Delta_E4_E6_aux` code is gone entirely, and no triple-inlined `a; b; c` tactic lines remain.

The inline threads below are all placement/overlap suggestions, none blocking; they could equally be a follow-up.

For the open MagicFunction PRs: #304 (and #473/#468 via it) uses the deleted `sigma3_qexp_summable`; after this lands that becomes `sigma_qexp_summable_generic 0 3` (or mathlib's `summable_sigma_mul_cexp_pow`), a one-token refresh on our side. No other overlap with #463–#468 or #472.

File: blueprint/src/subsections/modform-ineq.tex [hunk 8]
```diff
@@ -220,10 +220,10 @@ \section{Proof of Theorem \ref{thm:g}}\label{sec: g}
 \end{proof}
 
 
-\begin{corollary}\label{cor:ineqBnew} \uses{lemma:Qlim, prop:Qdec, lemma:F-G-pos}\lean{FG_inequality_2}
+\begin{corollary}\label{cor:ineqBnew}\uses{lemma:Qlim, prop:Qdec, lemma:F-G-pos}\lean{FG_inequality_2}\leanok
```
Comment (cameronfreer) [inline blueprint/src/subsections/modform-ineq.tex:223]: 🤖 Astra, posting at Cameron's request

Before marking this corollary `\leanok`, could we fix the referenced `eqn:ineqBnew` (line 54)? It currently says `F(it) - 18/π² G(it) > 0`, whereas `FG_inequality_2` proves `< 0`, as does the displayed argument immediately below this corollary. This is a pre-existing blueprint typo, not a problem with the Lean proof; the sign should be `< 0`.

File: SpherePacking/ModularForms/FG.lean [hunk 9]
```diff
@@ -1039,206 +526,138 @@ theorem F_functional_equation (z : ℍ) :
...
-/-- F₁ has exponential decay at infinity (it's essentially D E₄ which decays). -/
-lemma F₁_isBigO_exp_atImInfty :
-    F₁ =O[atImInfty] fun τ ↦ Real.exp (-(2 * π) * τ.im) := by
-  have heq : F₁ = (E₂ - 1) * E₄.toFun + (E₄.toFun - 1) - (E₆.toFun - 1) := by unfold F₁; ring
+  simpa [show valueAtInfty ⇑f = 1 from hf.limUnder_eq] using
+    exp_decay_sub_atImInfty one_pos (SlashInvariantFormClass.periodic_comp_ofComplex f (by simp))
+      (ModularFormClass.holo f) (ModularFormClass.bdd_at_infty f)
+
+/-- `F₁` has exponential decay `O(exp(-2π im τ))` at infinity, as `F₁ = 3 D E₄`. -/
+lemma F₁_isBigO_exp_atImInfty : F₁ =O[atImInfty] fun τ ↦ Real.exp (-(2 * π) * τ.im) := by
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:444]: 🤖 Astra, posting at Cameron's request

Optional simplification: the earlier `E₂E₄_sub_E₆_div_q_tendsto` already gives this bound directly. Using the ratio limit avoids the separate E₂/E₄/E₆ decay argument and makes the private `sub_one_isBigO_exp_atImInfty` helper immediately above unused/removable.

I typechecked this replacement in an isolated example against the existing declarations (not a full rebuild of this PR):

```lean
  simpa [F₁, Pi.mul_def, Pi.sub_def, Complex.norm_exp, Complex.mul_re,
    Complex.mul_im, mul_assoc] using
    (Asymptotics.isTheta_of_div_tendsto_nhds_ne_zero
      E₂E₄_sub_E₆_div_q_tendsto (by norm_num)).isBigO_symm.norm_right
```

File: blueprint/src/subsections/modform-ineq.tex [hunk 10]
```diff
@@ -97,7 +97,7 @@ \section{Proof of Theorem \ref{thm:g}}\label{sec: g}
     \partial_{12}\partial_{10} G - \frac{5}{6} E_{4} G &= -640 \Delta H_{2} \label{eqn:ddg}
 \end{align}
 \end{lemma}
-\begin{proof}
+\begin{proof}\leanok
```
Comment (cameronfreer) [inline blueprint/src/subsections/modform-ineq.tex:100]: 🤖 Astra, posting at Cameron's request

While marking this proof `\leanok`, there are a few pre-existing algebraic typos worth correcting in the displayed calculation below: line 115 has `-6/5` where it should be `-5/6`; the factors `E₂E₆ - E₄` on lines 116 and 117 need `E₄²`; and line 121 ends in `-E₄ E₆³` where it should be `-E₄ E₆²`. The Lean `MLDE_F` statement is fine; these are corrections to the written derivation.

**Review by cameronfreer — COMMENTED** [review]
🤖 Astra, posting at Cameron's request

A few additions to the earlier Fable review: one optional simplification and corrections to the blueprint text newly marked as formalized. No Lean theorem-statement change is needed.

File: blueprint/src/subsections/modform-ineq.tex (hunk 7 above)
Comment (cameronfreer) [reply blueprint/src/subsections/modform-ineq.tex]: 🤖 Astra, posting at Cameron's request

A correction to the suggested replacement above: `serre_D_L₁₀_pos_imag_axis` is not an exact match for `cor:MLDE-pos` either. It proves positivity of `serre_D 22 L₁₀`, which is the later consequence used in `prop:Qdec`. This corollary instead asserts the two separate signs of the MLDE left-hand sides: the F equation is positive and the G equation is negative. For an exact blueprint link, expose those two sign corollaries from `MLDE_F`/`MLDE_G` and the existing positivity lemmas; merely making `serre_D_L₁₀_pos_imag_axis` public would still point to a different statement.

**Comment by seewoo5** [comment]
@cameronfreer Most of the reviews are reflected. One thing I didn't follow is that one of the comment recommended to move some Eisenstein-specific theorems used in `FG.lean` to `Derivative.lean`, which I don't think as a good idea. But other comments were helpful, thanks! (posted by human me)

File: SpherePacking/ModularForms/Derivative.lean [hunk 11]
```diff
@@ -391,6 +403,33 @@ theorem D_qexp_tsum_pnat (a : ℕ+ → ℂ) (z : ℍ)
...
+        ‖a n * (2 * π * I * n) * cexp (2 * π * I * n * k.1)‖ ≤ u n) (z : ℍ) :
+    D g z = c * ∑' n : ℕ+, n * a n * cexp (2 * π * I * n * z) := by
+  let f : ℍ → ℂ := fun w ↦ ∑' n : ℕ+, a n * cexp (2 * π * I * n * w)
+  have hDf : D f z = ∑' n : ℕ+, n * a n * cexp (2 * π * I * n * z) :=
+    D_qexp_tsum_pnat a z (hsum z) hbound
+  have hf_md : MDiff f := by
+    have h : f = c⁻¹ • fun w ↦ g w - c₀ := by
+      ext w
+      rw [Pi.smul_apply, hg w, smul_eq_mul, add_sub_cancel_left, inv_mul_cancel_left₀ hc]
+    rw [h]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/Derivative.lean:424]: nit: maybe this can be `rw [show ... by ...]` to avoid the nested `have`

File: SpherePacking/ModularForms/FG.lean [hunk 12]
```diff
@@ -29,984 +42,346 @@ open UpperHalfPlane hiding I
...
-/-- F₁ = E₂ * E₄ - E₆, the square root of F. -/
+/-- `F₁ = E₂ E₄ - E₆`, the square root of `F`. -/
 noncomputable def F₁ := E₂ * E₄.toFun - E₆.toFun
 
+/-- `G = H₂ ^ 3 (2 H₂ ^ 2 + 5 H₂ H₄ + 5 H₄ ^ 2)`, built from the theta functions `H₂ = Θ₂ ^ 4` and
+`H₄ = Θ₄ ^ 4`. -/
 noncomputable def G := H₂ ^ 3 * ((2 : ℝ) • H₂ ^ 2 + (5 : ℝ) • H₂ * H₄ + (5 : ℝ) • H₄ ^ 2)
 
+/-- `negDE₂ = -D E₂`, which has positive `q`-coefficients (`negDE₂_qexp`). -/
 noncomputable def negDE₂ := - (D E₂)
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean:56]: do we need this definition? maybe we can just make it notation?

File: SpherePacking/ModularForms/FG.lean [hunk 13]
```diff
@@ -29,984 +42,346 @@ open UpperHalfPlane hiding I
...
 
-/-- Δ_fun expressed in terms of theta functions. -/
-private lemma Δ_fun_theta :
-    Δ_fun = (1 / 256 : ℂ) • ((H₂ * (H₂ + H₄) * H₄) ^ 2) := by
-  ext z
-  rw [congrFun Δ_fun_eq_Δ z, Δ_eq_H₂_H₃_H₄ z, ← jacobi_identity]
-  simp [Pi.add_apply, Pi.mul_apply, Pi.pow_apply, Pi.smul_apply, smul_eq_mul]
-  ring
+/-- The discriminant `Δ = 1728⁻¹ (E₄ ^ 3 - E₆ ^ 2)`, as an identity of functions on `ℍ`. -/
+private lemma Δ_eq_E₄_cube_sub_E₆_sq : Δ = 1728⁻¹ * (E₄.toFun ^ 3 - E₆.toFun ^ 2) :=
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/FG.lean:120]: I think this can even be a public `lemma`, it may not be used directly anywhere else but this is a fairly important standalone result (not just an intermediate result on the way to something else)

File: SpherePacking/ModularForms/FG.lean (hunk 12 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: Updated. By the way, do you have recommendations for choosing between definition/notation/abbreviation?

File: SpherePacking/ModularForms/FG.lean (hunk 13 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/FG.lean]: Done! Also, I found that this is (surprisingly) not in mathlib - @CBirkbeck Is it true? I may try to upstream then.
